US04540690
A 0.4 g (1.3 mmole) portion of 1-[2-[[4-(trifluoromethyl)phenyl](hydroxy)methyl]cyclohexyl]azetidine, from step A above was added during 5 min to 4 ml of ice cooled sulfuric acid. The mixture was stirred in ice for 20 min. The resulting mixture was poured into ice, basified with sodium hydroxide, and extracted with six 30 ml portions of chloroform. The chloroform extracts were combined and dried with magnesium sulfate and evaporated to give 0.173 g of (±)-(E)-1-[2-[[4-(trifluoromethyl)phenyl]methylene]cyclohexyl]azetidine. The crystalline p-toluenesulfonic acid salt of this azetidine derivative was prepared, mp 135°-136° C. UV λmax(ε)219sh(17,350) 222(17,400) 227sh(15,250) 246(11,750)IR,NH Rf 3000b, 2600, 1660 C=C, 1615, 1575, 1495, 1325 SO3 /CF3, 1230, 1215, 1175, 1125, 1065, 1035, 1010, 814 aromatic, 805, 680. NMR (d6DMSO)δ7.75,7.1(2d,4H,aromatic of TSA), 7.6-7.4 (m,4H,aromatic), 4.1-3.8(m,5H,--CH--N(CH2)--CH2 move upfield with addition of NaOH, 2.6-211 (m,4H,CH2 --C=C+C--CH2 -- of azetidine), 2.3 (s,3H,CH3), 1.9-1.45(m,6H,CH2 's).

reactant | 1-[2-[[4-(trifluoromethyl)phenyl](hydroxy)methyl]cyclohexyl]azetidine | FC(C1=CC=C(C=C1)C(C1C(CCCC1)N1CCC1)O)(F)F | C17H22F3NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | (±)-(E)-1-[2-[[4-(trifluoromethyl)phenyl]methylene]cyclohexyl]azetidine | 0.173 g | FC(C1=CC=C(C=C1)\C=C/1\C(CCCC1)N1CCC1)(F)F | C17H20F3N
